US09056865B2
Step 1: 2′,5′-dichloro-3,5-dimethyl-2,4′-bipyridine
A mixture of 2,5-dichloropyridin-4-ylboronic acid (75.6 g, 0.4 mol), 2-bromo-3,5-dimethylpyridine (56.2 g, 0.3 mol), Pd(dppf)Cl2 (13.5 g, 17 mmol) and K3PO4.3H2O (162 g, 0.6 mol) in dioxane (600 mL) and H2O (120 mL) was stirred at reflux under N2 atmosphere overnight. TLC (petroleum ether/EtOAc=10:1) showed that the reaction was complete. After cooling to room temperature, the mixture was filtered. Water (500 mL) was then added to the filtrate. The mixture was extracted with dichloromethane (500 mL×3). The combined organic layers were washed with brine (300 mL), dried over Na2SO4, filtered and concentrated. The residue was purified by chromatography on silica gel (petroleum ether/EtOAc=50:1 to 30:1) to give title compound (20 g, 26%) as a yellow solid. 1H NMR (400 MHz, MeOD): δ 8.54 (s, 1H), 8.31 (s, 1H), 7.68 (s, 1H), 7.50 (s, 1H), 2.41 (s, 3H), 2.15 (s, 3H); m/z for C12H10Cl2N2 253.1 (M+H)+.

reactant | 2,5-dichloropyridin-4-ylboronic acid | 0.4 mol, 75.6 g | ClC1=NC=C(C(=C1)B(O)O)Cl | C5H4BCl2NO2
reactant | 2-bromo-3,5-dimethylpyridine | 0.3 mol, 56.2 g | BrC1=NC=C(C=C1C)C | C7H8BrN
solvent | dioxane | 600 mL | O1CCOCC1 | C4H8O2
solvent | H2O | 120 mL | O | H2O
catalyst | Pd(dppf)Cl2 | 17 mmol, 13.5 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 2′,5′-dichloro-3,5-dimethyl-2,4′-bipyridine | 20 g, 26% | ClC1=NC=C(C(=C1)C1=NC=C(C=C1C)C)Cl | C12H10Cl2N2
